US07268230B2
4-[(4-Fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline (240 mg, 0.52 mmol), (prepared as described for the starting material in Example 15), was dissolved in pyridine (5 ml) and cooled to 0° C. Trichloroacetyl isocyanate (61 μl, 0.52 mmol) was added and the mixture stirred at ambient temperature for 1 hour. The mixture was concentrated under reduced pressure and the residue dissolved in 7N ammonia in methanol and stirred at 45° C. for 2.5 hours. Aqueous ammonia (1 ml) was added and the mixture was stirred at 60° C. for 1.5 hours and then at ambient temperature overnight. The solvent was removed under reduced pressure. Column chromatography of the residue using methylne chloride/methanol (90/10) followed by methylene chloride/methanol (saturated with ammonia) (90/10) gave a solid which was suspended in methanol and filtered to give 7-(3-[4-carbamoylpiperazin-1-yl]propoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (120 mg, 46%) as a pale yellow solid.

reactant | 4-[(4-Fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline | 0.52 mmol, 240 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCNCC1)C | C25H28FN5O3
reactant | Trichloroacetyl isocyanate | 0.52 mmol, 61 μl | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | 7-(3-[4-carbamoylpiperazin-1-yl]propoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 120 mg, 46% | C(N)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C26H29FN6O4
